US04235885
(A) 5-[[2-(Chloromethyl)-4-methyl-1-oxopentyl]amino]pentanoic acid
5-Aminovaleric acid (3.2 g) is dissolved in 15 ml of water containing 1.09 g of sodium hydroxide. This is cooled to 5° C. and 2-(chloromethyl)-4-methylvaleryl chloride in 30 ml of THF is added dropwise. The pH is maintained at 8-9 by the dropwise addition of 1.09 g sodium hydroxide in 20 ml of water as needed. After stirring for about 16 hours the reaction mixture is diluted with 30 ml of water and concentrated in vacuo to remove THF. The aqueous layer is washed with ether, and acidified with 10% hydrochloric acid. Product is extracted with ethyl acetate. The ethyl acetate is dried with magnesium sulfate, filtered and concentrated in vacuo to yield 4.3 g of product. Product is purified by the solvent system 500 parts ether: 10 parts methanol: 5 parts acetic acid, yielding 2.0 g of material.

reactant | 5-Aminovaleric acid | 3.2 g | NCCCCC(=O)O | C5H11NO2
reactant | 2-(chloromethyl)-4-methylvaleryl chloride | ClCC(C(=O)Cl)CC(C)C | C7H12Cl2O
solvent | water | 15 ml, 1.09 g | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | water | 30 ml | O | H2O
solvent | sodium hydroxide | 1.09 g | [OH-].[Na+]
product | 5-[[2-(Chloromethyl)-4-methyl-1-oxopentyl]amino]pentanoic acid | 4.3 g | ClCC(C(=O)NCCCCC(=O)O)CC(C)C | C12H22ClNO3
